US05164113
When (2S,5R)-2-hydroxy-5-hexyl-δ-valerolactone was prepared from (2R)-octane-1,2-epoxide as the starting compound, a tetrahydrofuran solution of an aryl Grignard reagent was synthesized from an aryl bromide by the process disclosed in Organic Synthesis, V, 608 (1973), a tetrahydrofuran solution of (2R)-octane-1,2-epoxide was added thereto, and the mixture was refluxed and reacted in an argon atmosphere. A saturated aqueous solution of ammonium chloride was added to the reacted mixture, and the mixture was extracted with chloroform. The chloroform solution was separated, washed with a saturated aqueous solution of sodium chloride, and dried on magnesium sulfate and concentrated under reduced pressure to obtain a crude product. Osmium tetroxide was added to a solution of the crude product in anhydrous ether to effect reaction, and the precipitated osmic ester was recovered by filtration and shaken with mannitol, an aqueous solution of potassium hydroxide and chloroform. Crude (2RS,5R)-1,2,5-undecanetriol was obtained from the chloroform phase, and in the same manner as described above with respect to (2S,5RS)-1,2,5-undecanetriol, protecting reaction, oxidation, removal of the protecting group, cyclization and optical resolution were carried out to obtain (2S,5R)-2-hydroxy-5-hexyl-δ-valerolactone.

reactant | (2S,5RS)-1,2,5-undecanetriol | C([C@H](CCC(CCCCCC)O)O)O | C11H24O3
solvent | ether | CCOCC | C4H10O
catalyst | Osmium tetroxide | [Os](=O)(=O)(=O)=O
product | (2S,5R)-2-hydroxy-5-hexyl-δ-valerolactone | O[C@@H]1C(=O)O[C@@H](CC1)CCCCCC | C11H20O3
